US04803280
2-Methyl-2-[[5-(phenylmethyl)-1,2,3-thiadiazol-4-yl ]thio]propanoic acid, ethyl ester
A solution of 1.99 g of 5-(phenylmethyl)-1,2,3-thiadiazole-4-thiol, sodium salt in 30 ml of ethanol was stirred overnight with 1.96 g of ethyl 2-bromoisobutyrate and then concentrated in vacuo. The residue was taken up in ether, filtered, and evaporated in vacuo. The oily residue was purified as described in Example 50, giving a yellow oil. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 1.22 (t, 3H); 1.67 (s, 2 CH3 's); 4.12 (q, 2H); 4.31 (s, CH2); 7.30 (6s, SH).

reactant | 5-(phenylmethyl)-1,2,3-thiadiazole-4-thiol | 1.99 g | C1(=CC=CC=C1)CC1=C(N=NS1)S | C9H8N2S2
reactant | sodium | [Na] | Na
reactant | ethyl 2-bromoisobutyrate | 1.96 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Methyl-2-[[5-(phenylmethyl)-1,2,3-thiadiazol-4-yl ]thio]propanoic acid, ethyl ester | CC(C(=O)OCC)(C)SC=1N=NSC1CC1=CC=CC=C1 | C15H18N2O2S2
